US08017611B2
(2-chloro-2-oxo-ethyl)acetate (0.029 ml) was added in one portion to a stirred mixture of 3-(1,3-benzoxazol-2-yl)-5-[3-(methoxymethyl)-1-(4-piperidyl)pyrazol-4-yl]pyridin-2-amine (90 mg) and triethylamine (0.062 ml) in CH2Cl2 (5 ml) at 23° C. The resulting mixture was stirred at 23° C. for 2 hours and concentrated to dryness. Methanol (20 ml) and water (1 ml) were added to the residue followed by lithium hydroxide hydrateaqueous solution (0.334 g, 2M). The resulting solution was stirred at 23° C. After 4 hours the reaction mixture was concentrated and the crude product was purified by flash chromatography on silica gel eluting with 0 to 5% methanolic ammonia (7 N) in dichloromethane. The fractions were evaporated to dryness to afford 1-[4-[4-[6-amino-5-(1,3-benzoxazol-2-yl)-3-pyridyl]-3-(methoxymethyl)pyrazol-1-yl]-1-piperidyl]-2-hydroxy-ethanone (42.0 mg) as a solid. NMR Spectrum: (DMSOd6): 1.77-1.87 (m, 1H), 1.88-2.00 (m, 1H), 2.05-2.14 (m, 2H), 2.79-2.89 (m, 1H), 3.11-3.21 (m, 1H), 3.41 (s, 3H), 3.78-3.88 (m, 1H), 4.08-4.21 (m, 2H), 4.40 (s, 2H), 4.41-4.51 (m, 2H), 4.58 (t, 1H), 7.40-7.48 (m, 2H), 7.66 (bs, 2H), 7.78 (dd, 1H), 7.84 (dd, 1H), 8.23 (s, 1H), 8.42 (d, 1H), 8.50 (d, 1H); Mass spectrum: M+H+ 463.

reactant | (2-chloro-2-oxo-ethyl)acetate | 0.029 ml | ClC(COC(C)=O)=O | C4H5ClO3
reactant | 3-(1,3-benzoxazol-2-yl)-5-[3-(methoxymethyl)-1-(4-piperidyl)pyrazol-4-yl]pyridin-2-amine | 90 mg | O1C(=NC2=C1C=CC=C2)C=2C(=NC=C(C2)C=2C(=NN(C2)C2CCNCC2)COC)N | C22H24N6O2
reactant | triethylamine | 0.062 ml | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | 5 ml | C(Cl)Cl | CH2Cl2
product | 1-[4-[4-[6-amino-5-(1,3-benzoxazol-2-yl)-3-pyridyl]-3-(methoxymethyl)pyrazol-1-yl]-1-piperidyl]-2-hydroxy-ethanone | 42.0 mg | NC1=C(C=C(C=N1)C=1C(=NN(C1)C1CCN(CC1)C(CO)=O)COC)C=1OC2=C(N1)C=CC=C2 | C24H26N6O4
